US07279469B2
3,5-Dimethoxy-4-(2-morpholin-4-yl ethoxy)benzoic acid methyl ester:
To a solution of methyl 3,5-dimethoxy-4-hydroxybenzoate (3.0 g, 14 mmol) in DMF (10 mL) was added 4-(2-chloroethyl)-morpholine hydrochloride (3.99 g, 21 mmol) and solid K2CO3 (8.4 g, 60 mmol). The mixture was heated at 60 C under N2 for 30 h. Diluted with EtOAc (100 mL) and washed with H2O (2×50 mL), back extracted the aqueous phase, and washed combined organics with brine. Dried over Na2SO4, filtered and evaporated to give the product as a brown solid (4.79 g, quantitative). 1H-NMR (CDCl3, 500 MHz7.28 (s, 2H), 4.15 (t, 2H), 3.91 (s, 3H), 3.88 (s, 6H), 3.75-3.71 (m, 4H), 2.78 (t, 2H), 2.59 (br s, 4H) ppm; MS (FIA) 326.17 (M+H)

reactant | methyl 3,5-dimethoxy-4-hydroxybenzoate | 14 mmol, 3.0 g | COC=1C=C(C(=O)OC)C=C(C1O)OC | C10H12O5
reactant | 4-(2-chloroethyl)-morpholine hydrochloride | 21 mmol, 3.99 g | Cl.ClCCN1CCOCC1
reactant | K2CO3 | 60 mmol, 8.4 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 3,5-Dimethoxy-4-(2-morpholin-4-yl ethoxy)benzoic acid methyl ester | 4.79 g | COC(C1=CC(=C(C(=C1)OC)OCCN1CCOCC1)OC)=O | C16H23NO6
